US07018988B2
(2S,4EZ)-4-(ethoxyimino)-N1-pentyl-N2-[2-(1H-pyrrol-1-yl)phenyl]-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and 2-(1H-pyrrol-1-yl)phenylamine the title compound was obtained in 83% purity by LC/MS. MS(ESI+): m/z=426.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | 2-(1H-pyrrol-1-yl)phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
product | (2S,4EZ)-4-(ethoxyimino)-N1-pentyl-N2-[2-(1H-pyrrol-1-yl)phenyl]-1,2-pyrrolidinedicarboxamide | C(C)ON=C1C[C@H](N(C1)C(=O)NCCCCC)C(=O)NC1=C(C=CC=C1)N1C=CC=C1 | C23H31N5O3
